US07985753B2
7-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-2,6-dimethyl-1,2,6,7,8,9-hexahydro-pyrrolo[3,4-f]isoquinolin-3-one
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 2,6-Dimethyl-1,2,6,7,8,9-hexahydro-pyrrolo[3,4-f]isoquinolin-3-one to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2,6-Dimethyl-1,2,6,7,8,9-hexahydro-pyrrolo[3,4-f]isoquinolin-3-one | CN1CC2=C3CCNC(C3=CC=C2C1=O)C | C13H16N2O
product | 7-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-2,6-dimethyl-1,2,6,7,8,9-hexahydro-pyrrolo[3,4-f]isoquinolin-3-one | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C3C(=C1CC2)CN(C3=O)C)C | C20H18BrN5O2
